US04032647
A mixture of 214 g (1.0 mole) of 1-tetradecanol, 59 g (1.46 mole) of sodium hydride (59.5% in oil) and 3 l. of dried xylene is heated to reflux with stirring for two hours, then allowed to cool after which 75 g (0.46 mole) of 5-chloro-2-thiophene carboxylic acid is added. The mixture is refluxed for 64 hours after which it is cooled and poured into a waterice mixture, acidified with acetic acid and extracted with the addition of ether. The ether is evaporated, and the xylene layer extracted five times with water:strong ammonia solution (1:1). The combined aqueous extract is acidified with acetic acid. The solid obtained is crystallized twice from hexane to give 2-(5-tetradecyloxy)thiophene carboxylic acid, M.P. 95°-96° C.

reactant | 1-tetradecanol | 1.0 mole, 214 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | sodium hydride | 1.46 mole, 59 g | [H-].[Na+]
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 5-chloro-2-thiophene carboxylic acid | 0.46 mole, 75 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-tetradecyloxy)thiophene carboxylic acid | CCCCC(CCCCCCCCC)OC1(SC=CC1)C(=O)O | C19H34O3S
